US09126940B2
Ethyl 2-(4-((1E,4E)-2-amino-4-(dipropylcarbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate (20%) was prepared as follows, substituting ethyl 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate for 4-(methoxycarbonyl)phenylboronic acid. (1E,4E)-2-amino-8-bromo-N,N-dipropyl-3H-benzo[b]azepine-4-carboxamide (75.0 mgs, 0.206 mmol), 4-(methoxycarbonyl)phenylboronic acid (55.6 mgs, 0.309 mmol, tetrakis(triphenylphosphine)palladium(0) (23.8 mgs, 0.021 mmol), 2M aqueous potassium carbonate (0.309 ml, 0.618 mmol) were combined in 2 mls of acetonitrile in a microwave reaction vial. This mixture was heated in a microwave to 100° C. for 30 minutes. The mixture was then diluted with EtOAc, washed twice with brine, dried over sodium sulfate, and concentrated under reduced pressure. Preparative thin layer chromatography (2×0.5 mm plates, 7% MeOH/DCM) was then used. 1H NMR (400 MHz, CDCl3) δ 7.59-7.65 (m, 2H), 7.48-7.53 (m, 1H), 7.30-7.39 (m, 4H), 6.84 (s, 1H), 5.50 (very broad s, 1H), 4.14-4.23 (m, 2H), 3.66 (s, 2H), 3.38-3.52 (m, 4H), 2.86 (m, 2H), 1.59-1.72 (m, 4H), 1.22-1.32 (m, 3H), 0.88-0.97 (m, 6H); m/z (APCI-pos) M+1=448.2.

reactant | 4-(methoxycarbonyl)phenylboronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | (1E,4E)-2-amino-8-bromo-N,N-dipropyl-3H-benzo[b]azepine-4-carboxamide | 0.206 mmol, 75.0 mgs | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)Br)\C(=O)N(CCC)CCC | C17H22BrN3O
reactant | potassium carbonate | 0.618 mmol, 2M, 0.309 ml | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 2 mls | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.021 mmol, 23.8 mgs | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 2-(4-((1E,4E)-2-amino-4-(dipropylcarbamoyl)-3H-benzo[b]azepin-8-yl)phenyl)acetate | 20% | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C2=CC=C(C=C2)CC(=O)OCC)\C(N(CCC)CCC)=O | C27H33N3O3
